US06348485B1
Ethyl 3-(2,3-Dihydrobenzofuran-5-yl)propionate
To a solution of ethyl (E)-3-(2,3-dihydrobenzofuran-5-yl)-2-propenoate (160.0 g, 733 mmols) in acetic acid (960 mL) was added 5% palladium on activated carbon (32.0 g, 50% hydrous). The mixture was stirred at 50° C. for 3.5 hours under hydrogen atmosphere (ambient pressure). The catalyst was filtered off and the filtrate containing 156.7 g (yield: 97%) of the title compound was obtained which was provided to the next step.

reactant | ethyl (E)-3-(2,3-dihydrobenzofuran-5-yl)-2-propenoate | 733 mmols, 160.0 g | O1CCC2=C1C=CC(=C2)/C=C/C(=O)OCC | C13H14O3
solvent | acetic acid | 960 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | 32.0 g | [Pd] | Pd
product | Ethyl 3-(2,3-Dihydrobenzofuran-5-yl)propionate | 156.7 g, yield: 97% | O1CCC2=C1C=CC(=C2)CCC(=O)OCC | C13H16O3
